US06187905B1
A solution of 2.2 g of di-tert-butyl dicarbonate in 20 ml of saturated sodium bicarbonate solution was added to a solution 1.43 g. of 3(S)-amino-2(S)-hydroxyheptanoic acid trifluoroacetate in 20 ml of dioxan. The mixture was stirred for 2 hours at room temperature and 0.5 g of di-tert-butyl dicarbonate and 10 ml of saturated sodium bicarbonate solution were added. The mixture was stirred overnight and a further 0.5 g of di-tert-butyl dicarbonate and 10 ml of saturated sodium bicarbonate solution were added. The mixture was stirred until thin layer chromatography using dichloromethane/methanol/acetic acid/water (60:18:2:3) for the elution indicated that the 3(S)-amino-2(S)-hydroxyheptanoic acid trifluoroacetate had been consumed. The dioxan was evaporated and the aqueous layer was extracted with diethyl ether. Ethyl acetate was added to the aqueous layer, which was acidified with 2M hydrochloric acid. The organic phase was separated and the aqueous phase was extracted with ethyl acetate. The combined organic layers were dried over magnesium sulphate and evaporated to give 3(S)-(tert-butoxyformamido)-2(S)-hydroxyheptanoic acid, MS: m/e 262.5 [M+H]+.

reactant | di-tert-butyl dicarbonate | 2.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3(S)-amino-2(S)-hydroxyheptanoic acid trifluoroacetate | FC(C(=O)O)(F)F.N[C@H]([C@@H](C(=O)O)O)CCCC
reactant | di-tert-butyl dicarbonate | 0.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 0.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | dichloromethane methanol acetic acid water | ClCCl.CO.C(C)(=O)O.O
solvent | sodium bicarbonate | 20 ml | C([O-])(O)=O.[Na+]
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
solvent | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
solvent | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
product | 3(S)-(tert-butoxyformamido)-2(S)-hydroxyheptanoic acid | C(C)(C)(C)OC(=O)N[C@H]([C@@H](C(=O)O)O)CCCC | C12H23NO5
